US05624917
Oily sodium hydride (60%, 2.45 g) was added to a solution of acetanilide (7.0 g) in N,N-diemthylformamide (50 ml), and the mixture was stirred at 0° C. for 15 minutes. Then a solution of N-(4-bromobutyl)phthalimide (15.3 g) in N,N-dimethylformamide (80 ml) was added dropwise. The mixture was stirred at room temperature for 4 hours, poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), and then the solvent was distilled off. The residue was subjected to column chromatography on silica gel and eluted with ethyl acetate-chloroform (1:9, v/v) to obtain N-[4-(N-acetyl-N-phenylamino)butyl]phthalimide (9.21 g, 52.9%), which was then recrystallized from isopropyl ether. Colorless prism, mp: 83°-84° C.

reactant | sodium hydride | 2.45 g | [H-].[Na+]
reactant | acetanilide | 7.0 g | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | N-(4-bromobutyl)phthalimide | 15.3 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | N-[4-(N-acetyl-N-phenylamino)butyl]phthalimide | 9.21 g, 52.9% | C(C)(=O)N(C1=CC=CC=C1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C20H20N2O3
